US07402595B2
2-Butoxy-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (370 mg) was dissolved in THF(6.0 ml), and oxalyl chloride (170 μl) and DMF (1 drop) were added at 0° C. with stirring. The mixture was stirred at room temperature for 2 hrs. and concentrated under reduced pressure. Toluene was added to the residue and they were boiled together several times to give 2-butoxy-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride.

reactant | 2-Butoxy-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 370 mg | C(CCC)ON1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Cl)=O | C20H18ClNO4
reactant | oxalyl chloride | 170 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2-butoxy-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride | C(CCC)ON1C(C2=CC=C(C=C2C(=C1C(=O)Cl)C1=CC=CC=C1)Cl)=O | C20H17Cl2NO3
